US06034096
A solution of 4-[(N-isopropyl-1,2,3,4-tetrahydroisoquinol-3-yl)methyloxycarbamoyl]benzoic acid (3.0 g, 7.8 mmol) and thionyl chloride (1.7 ml, 23 mmol) in chloroform (100 ml) was refluxed for 3 hours, then the solvent and thionyl chloride were evaporated. Crude was dissolved in chloroform (100 ml) and evaporated to dryness three times. Crude was dissolved in tetrahydrofuran (50 ml) and added to a solution of hydroxylamine hydrochloride (0.65 g, 9.4 mmol) and sodium bicarbonate (1.3 g, 15.7 mmol) and 1N sodium hydroxide (9.4 ml, 9.4 mmol) in water (30 ml) and tetrahydrofuran (20 ml). The mixture was at room temperature for an hour, then tetrahydrofuran was removed under reduced pressure and the aqueous phase was extracted with ethyl acetate (3×100 ml). The combined organic phases were dried over anhydrous sodium sulphate and the solvent was removed under reduced pressure. Crude was dissolved in tetrahydrofuran and treated with a 1.5 N etheric solution of hydrochloric acid. The solid product was filtered and dried yielding 2.1 g (yield 62%) of pure 4-[(N-isopropyl-1,2,3,4-tetrahydroisoquinol-3-yl)methyloxycarbamoyl]benzohydroxamic acid hydrochloride as white solid. m.p.=154-157° C. (dec.).

reactant | 4-[(N-isopropyl-1,2,3,4-tetrahydroisoquinol-3-yl)methyloxycarbamoyl]benzoic acid | 7.8 mmol, 3.0 g | C(C)(C)N1CC2=CC=CC=C2CC1CONC(=O)C1=CC=C(C(=O)O)C=C1 | C21H24N2O4
reactant | thionyl chloride | 23 mmol, 1.7 ml | S(=O)(Cl)Cl | Cl2OS
reactant | hydroxylamine hydrochloride | 9.4 mmol, 0.65 g | Cl.NO
reactant | sodium bicarbonate | 15.7 mmol, 1.3 g | C([O-])(O)=O.[Na+]
reactant | sodium hydroxide | 9.4 mmol, 1N, 9.4 ml | [OH-].[Na+]
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 30 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-[(N-isopropyl-1,2,3,4-tetrahydroisoquinol-3-yl)methyloxycarbamoyl]benzohydroxamic acid hydrochloride | 2.1 g, yield 62% | Cl.C(C)(C)N1CC2=CC=CC=C2CC1CONC(=O)C1=CC=C(C(=O)NO)C=C1 | InChI=1S/C21H25N3O4.ClH/c1-14(2)24-12-18-6-4-3-5-17(18)11-19(24)13-28-23-21(26)16-9-7-15(8-10-16)20(25)22-27;/h3-10,14,19,27H,11-13H2,1-2H3,(H,22,25)(H,23,26);1H
